US04025652
To 40.5 g. (0.315 mole) of 2,6-dimethylaniline is added 0.4 moles of ethereal HCl and 200 ml. of m-cresol. The mixture is then stirred and heated on a steam bath to drive off the ether and excess hydrogen chloride. To the resultant mixture is then added 17.7 g. (0.315 mole) of methyl cyanamide then heated for 2 hours on a steam bath. The reaction mixture is then cooled, added to 150 ml. of conc. sodium hydroxide solution, cooled and extracted with 2 liters of ether. The ether layer is washed with 2 × 1 liter of water, dried over sodium sulfate, charcoaled and evaporated. The residue is triturated with hexane and the precipitate is filtered off and washed with ether and dried to obtain 1-(2,6-dimethylphenyl)-3-methylguanidine.

reactant | 2,6-dimethylaniline | 0.315 mole | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | HCl | 0.4 moles | Cl | ClH
reactant | m-cresol | C1=C(C=CC=C1O)C | C7H8O
reactant | methyl cyanamide | 0.315 mole | CNC#N | C2H4N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
product | 1-(2,6-dimethylphenyl)-3-methylguanidine | CC1=C(C(=CC=C1)C)NC(=N)NC | C10H15N3
